US07863314B2
B. Preparation of 3-[5-Amino-4-(3-pyrazin-2-yl-benzoyl)-imidazol-1-yl]-N-cyclopropyl-4-methylbenzamide
A solution of 3-[5-amino-4-(3-bromobenzoyl)-imidazol-1-yl]-N-cyclopropyl-4-methylbenzamide (60 mg), 2-tributyltinpyrazine (120 uL) and tetrakis(triphenylphosphine)palladium(0) (30 mg) in 1,4-dioxane (0.8 mL) was heated under microwave radiation at 160° C. for 25 min. Water (3 ml) was added and the mixture was extracted with ethyl acetate (4 mL×2). Evaporation of the solvent and purification by preparatory TLC (EtOAc:MeOH=10:1) gave the desired product (38 mg, 63%). HPLC (4 minute 10-90 gradient) tR 2.18 min; MS m/z 439.27 [M+H]+.

reactant | 3-[5-amino-4-(3-bromobenzoyl)-imidazol-1-yl]-N-cyclopropyl-4-methylbenzamide | 60 mg | NC1=C(N=CN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(C1=CC(=CC=C1)Br)=O | C21H19BrN4O2
reactant | Water | 3 ml | O | H2O
reactant | 1,4-dioxane | 0.8 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[5-Amino-4-(3-pyrazin-2-yl-benzoyl)-imidazol-1-yl]-N-cyclopropyl-4-methylbenzamide | 38 mg, 63% | NC1=C(N=CN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(C1=CC(=CC=C1)C1=NC=CN=C1)=O | C25H22N6O2
